datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[H:6],40.8358
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16](=[S:17])[H:20])([H:18])[H:19]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15]([C:16](=[S:17])[H:20])([H:18])[H:19],68.6176
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])([C:10](=[S:11])[H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[S:3])[H:15])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])[C:10](=[S:11])[H:19])([H:12])([H:13])[H:14],42.2584
[C:0]([O:1][C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([O:1][C:2]([C:3]([C:4]([C:5]([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:14],64.0152
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10](=[S:11])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10](=[S:11])[H:16])[H:15],105.018
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:11])[H:10],8.7864
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34])[H:12],0.71128
[S:0]([S:1][H:3])[H:2].[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14]>>[H:2][c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14].[S:0][S:1][H:3],-23.4304
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:33])([H:31])[H:32]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:28]([C:27](=[C:26]([H:31])[H:32])[H:33])([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39],51.2958
[H:12].[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1=[O:7]>>[O:0][C:1]1([H:12])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1=[O:7],29.12064
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:23]([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][C:23]([H:24])([H:25])[H:26],22.92832
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][O:30],8.811504
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:7],36.7774
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])([H:17])([H:18])[H:19]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:17])([H:18])[H:19])([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25],80.3328
[S:0][C:1]([S:2])([H:3])[H:4]>>[S:0]1[C:1]([H:3])([H:4])[S:2]1,2.9288
